US07148226B2
2-(4-Bromo-phenyl)-N-methyl-isobutyramide
The title compound was prepared as described in Step 1 of Example A(39), where 2-(4-bromophenyl)-2-methyl propionic acid was substituted for ethyl hydrogen malonate and methyl amine was substituted instead of (R)-(+)-1-(4-bromophenyl)ethylamine on that example. Yield 84%.

reactant | 2-(4-bromophenyl)-2-methyl propionic acid | BrC1=CC=C(C=C1)C(C(=O)O)(C)C | C10H11BrO2
reactant | ethyl hydrogen malonate | C(CC(=O)O)(=O)OCC | C5H8O4
reactant | methyl amine | CN | CH5N
reactant | (R)-(+)-1-(4-bromophenyl)ethylamine | BrC1=CC=C(C=C1)[C@@H](C)N | C8H10BrN
product | 2-(4-Bromo-phenyl)-N-methyl-isobutyramide | Yield 84% | BrC1=CC=C(C=C1)C(C(=O)NC)(C)C | C11H14BrNO
